US08314097B2
B. 5-(2-Thiophen-3-yl-phenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
To a solution of 5-(2-bromophenyl)-5,6,7,8,-tetrahydroimidazo[1,5-a]pyridine (95 mg, 0.343 mmol) in DME (2 mL) is added thiophene-3-boronic acid (53 mg, 0.414 mmol), aqueous Na2CO3 (2M, 0.5 mL, 1.0 mmol), and Pd(PPh3)4 (20 mg). The reaction mixture is run under microwave irradiation at 120° C. for 20 min. The mixture is partitioned between EtOAc and brine. The organic layer is washed by brine, dried over Na2SO4 and concentrated to give an oil. The crude reaction mixture is subjected to flash chromatography eluting with acetone:hexane to yield the desired compound. MS (ESI) m/z 280 (M+H).

reactant | 5-(2-bromophenyl)-5,6,7,8,-tetrahydroimidazo[1,5-a]pyridine | 0.343 mmol, 95 mg | BrC1=C(C=CC=C1)C1CCCC=2N1C=NC2 | C13H13BrN2
reactant | thiophene-3-boronic acid | 0.414 mmol, 53 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 1.0 mmol, 2M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-Thiophen-3-yl-phenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | S1C=C(C=C1)C1=C(C=CC=C1)C1CCCC=2N1C=NC2 | C17H16N2S
